US08580824B2
To a solution of 4-[5-(4-benzyloxy-3-ethyl-5-methyl-phenyl)-[1,3,4]thiadiazol-2-yl]-2-isopropyl-6-methyl-pyridine (837 mg, 1.88 mmol) in EA (30 mL) 33% HBr in acetic acid (1 mL) is added. The mixture is stirred at rt for 3 h before it is diluted with EA, washed twice with sat. aq. NaHCO3 solution, dried over MgSO4, filtered and concentrated. The crude product is purified by CC on silica gel eluting with heptane:EA 4:1 to give 2-ethyl-4-[5-(2-isopropyl-6-methyl-pyridin-4-yl)-[1,3,4]thiadiazol-2-yl]-6-methyl-Phenol (540 mg) as a pale yellow oil; LC-MS: tR=0.92* min, [M+1]+=354.14.

reactant | 4-[5-(4-benzyloxy-3-ethyl-5-methyl-phenyl)-[1,3,4]thiadiazol-2-yl]-2-isopropyl-6-methyl-pyridine | 1.88 mmol, 837 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C1=NN=C(S1)C1=CC(=NC(=C1)C)C(C)C)CC | C27H29N3OS
solvent | EA | 30 mL | CC(OCC)=O | C4H8O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 2-ethyl-4-[5-(2-isopropyl-6-methyl-pyridin-4-yl)-[1,3,4]thiadiazol-2-yl]-6-methyl-Phenol | 540 mg | C(C)C1=C(C(=CC(=C1)C=1SC(=NN1)C1=CC(=NC(=C1)C)C(C)C)C)O | C20H23N3OS
